### PR TITLE
[Merged by Bors] - feat port: Algebra.Order.Ring.Abs

### PR DESCRIPTION
**Pull request by ChrisHughes24**
10b4e499f43088dd3bb7b5796184ad5216648ab1

Easy peasy

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Abs.lean [hunk 1]
```diff
@@ -0,0 +1,140 @@
...
+
+/-- For an element `a` of a linear ordered ring, either `abs a = a` and `0 ≤ a`,
+    or `abs a = -a` and `a < 0`.
+    Use cases on this lemma to automate linarith in inequalities -/
+theorem abs_cases (a : α) : |a| = a ∧ 0 ≤ a ∨ |a| = -a ∧ a < 0 := by
+  by_cases 0 ≤ a
+  · left
+    exact ⟨abs_eq_self.mpr h, h⟩
+  · right
+    push_neg  at h
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Ring/Abs.lean:71]:
```suggestion
    push_neg at h
```

File: Mathlib/Algebra/Order/Ring/Abs.lean [hunk 2]
```diff
@@ -0,0 +1,140 @@
...
+
+@[simp]
+theorem abs_eq_neg_self : |a| = -a ↔ a ≤ 0 := by simp [abs_eq_max_neg]
+#align abs_eq_neg_self abs_eq_neg_self
+
+/-- For an element `a` of a linear ordered ring, either `abs a = a` and `0 ≤ a`,
+    or `abs a = -a` and `a < 0`.
+    Use cases on this lemma to automate linarith in inequalities -/
+theorem abs_cases (a : α) : |a| = a ∧ 0 ≤ a ∨ |a| = -a ∧ a < 0 := by
+  by_cases 0 ≤ a
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Ring/Abs.lean:67]:
```suggestion
  by_cases h : 0 ≤ a
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
